US07985755B2
5-[4-(4-Chloro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 4-Chlorobenzyl Chloride (59.6 mg; 0.37 mmol) to obtain 49.5 mg. (67% yield). 1H NMR (400 MHz, DMSO-d6) δ 12.8 (s, 1H), 9.94 (s, 1H), 8.88 (s, 1H), 7.69 (m, 2H), 7.38 (m, 4H), 7.25 (d, J=8.0 Hz, 1H), 7.21 (d, J=8.4 Hz, 1H), 3.57 (s, 2H), 3.03 (br d, J=10.8 Hz, 3H), 2.91 (m, 3H), 2.29 (m, 2H). ESIMS+369.2 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 4-Chlorobenzyl Chloride | 0.37 mmol, 59.6 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 5-[4-(4-Chloro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 67% yield | ClC1=CC=C(CN2CCN(CC2)C2=C3C(=NC(=NC3=CC=C2)N)N)C=C1 | C19H21ClN6
